US04692166
2-Bromo-4,5-methylenedioxyphenol
To a solution of 0.18 mol (25 g) of 4,5-methylenedioxyphenol in 125 ml of glacial acetic acid, a solution of 0.16 mol (29 g) of bromine in 145 ml of glacial acetic acid is added slowly, the temperature of the reaction medium being maintained at between 15° and 25° C. When the addition is complete, the reaction medium is poured into 1.5 liters of ice-cold water. The expected product precipitates. After being drained, it is washed with water until the solvent has been removed. After being dried under vacuum in the presence of potassium hydroxide, it is recrystallized from a petroleum ether/ethyl acetate mixture or from cyclohexane. It melts at 84° C. (decomposition).

reactant | 4,5-methylenedioxyphenol | 0.18 mol, 25 g | C1OC2=CC=C(C=C2O1)O | C7H6O3
reactant | bromine | 0.16 mol, 29 g | BrBr | Br2
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 145 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-4,5-methylenedioxyphenol | BrC1=C(C=C2C(=C1)OCO2)O | C7H5BrO3
